US07420059B2
A solution of Part G 1,1-dimethylethyl(4R,6S)-(E)-(6-{2-[4-(4-fluorophenyl)-2-isopropyl-8-methanesulfonyl-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl]ethenyl}-2,2-dimethyl-[1,3]dioxan-4-acetate (10.8 g, 0.018 mol) in THF/MeOH (5:2, 140 mL) was cooled to 15° C. An aqueous solution of HCl (6 N, 9.0 mL, 0.054 mol) was added over 15 min. The reaction mixture was stirred at 15° C. for 2.5 h. An aqueous solution of NaOH (2 N, 44.8 mL, 0.090 mol) was added over 15 min at 15° C. The mixture was stirred for an additional 1 h. Water (35 mL) and heptane (100 mL) were added, and the two phases were separated. The aqueous phase was washed with MTBE (30 mL). The aqueous phase was acidified with aqueous HCl (3 N) to pH 2.8, then was extracted with ethyl acetate (2 times, 100 mL and 50 mL). The organic phases were combined and the solvent was removed at 45° C. under reduced pressure until total volume of 100 mL remained. The resulting solution was cooled to 0° C. over 60 min. Seed crystals (30 mg) of Part H compound were added at 0° C. and the resulting slurry was stirred for an additional 30 min. Heptane (80 mL) was added over 30 min, and the slurry was stirred for 1 h at 0° C. The solids were collected by filtration. After drying at 60° C. under vacuum, (E)-(3R,5S)-7-[4-(4-fluorophenyl)-2-isopropyl-8-methanesulfonyl-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl]-3,5-dihydroxyhept-6-enoic acid was obtained as a white solid (8.20 g, 90% yield): mp 184-186° C.; 1H NMR (400 MHz, CDCl3) δ 1.10-1.18 (m, 1H), 1.21 (d, J=5.9 Hz, 6H), 1.35-1.42 (m, 1H), 1.77-1.83 (m, 2H), 2.17 (dd, J=8.1, 8.7 Hz, 1H), 2.23 (dd, J=4.7, 5.4 Hz, 1H), 2.30 (t, J=6.7 Hz, 2H), 3.31 (s, 1H), 3.36-3.41 (m, 1H), 3.58 (s, 3H), 3.71 (s, 1H), 3.77 (t, 2H, J=6.0 Hz), 4.62 (s, 1H), 4.76 (d, J=4.4 Hz, 1H), 5.29 (dd, J=5.7, 5.7 Hz, 1H), 6.18 (d, J=15.2 Hz, 1H), 7.13-7.28 (m, 4H), 12.0 (s, 1H); 13C NMR (100 MHz, DMSO-d6) δ172.8, 162.6, 160.2, 159.3, 148.7, 140.5, 134.4, 131.3, 131.1, 125.3, 123.5, 117.3, 115.8, 115.6, 69.3, 65.7, 45.6, 43.9, 43.6, 32.2, 26.3, 23.7, 23.4; HRMS calcd for C25H32FN2O6S (M+1) 507.1965, found 507.1960.

reactant | 6-{2-[4-(4-fluorophenyl)-2-isopropyl-8-methanesulfonyl-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl]ethenyl}-2,2-dimethyl-[1,3]dioxan-4-acetate | 0.018 mol, 10.8 g | FC1=CC=C(C=C1)C1=C(C(=NC=2N(CCCC12)S(=O)(=O)C)C(C)C)C=CC1CC(OC(O1)(C)C)CC(=O)[O-]
reactant | HCl | 0.054 mol, 6 N, 9.0 mL | Cl | ClH
reactant | NaOH | 0.090 mol, 2 N, 44.8 mL | [OH-].[Na+]
reactant | Water | 35 mL | O | H2O
solvent | THF MeOH | 140 mL | C1CCOC1.CO
solvent | heptane | 100 mL | CCCCCCC | C7H16
product | (E)-(3R,5S)-7-[4-(4-fluorophenyl)-2-isopropyl-8-methanesulfonyl-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl]-3,5-dihydroxyhept-6-enoic acid | FC1=CC=C(C=C1)C1=C(C(=NC=2N(CCCC12)S(=O)(=O)C)C(C)C)/C=C/[C@H](C[C@H](CC(=O)O)O)O | C25H31FN2O6S
